* Created in LTspice Version 4.13h                              *
*                                            					*
* GaN Systems Inc. Power Transistors                            *
* LTSpice Library for GaN Transistors                           *
* Version 1.27                                                  *
*                                                               *
*****************************************************************
*****************************************************************
*                                                               *
* Models provided by GaN Systems Inc. are not warranted by      *
* GaN Systems Inc. as                                           *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. GaN Systems Inc. therefore   *  
* does not assume any liability arising from their use.         *
* GaN Systems Inc. reserves the right to change models without  *
* prior notice.                                                 *
*                                                               *
* This library contains models of the following GaN Systems     *
* Inc. transistors:                                             *
*                                                               *
*   GS61008P                                                    *
*****************************************************************      
.subckt GS61008P gatein drainin sourcein source_S T1 
*
.param conv_aide=1
.param Rth_CasetoAmbient=0
*
*
.param aDi=0.25       cur={(1.3/3.6)*(0.069*75/80)*802/0.71}   slp=2.0   rpara=1.05
+      ITc=0.004       	  rTc=-0.015      		       x0_0=0.31		   x0_1=0.255
+      di_gs1={7*4.3e-5}  di_gs2={2.6e-8}  	       di_gs3={100*0.8}    di_gs4={80*0.23}
+      Igs1=1.42e-10   	  Igs2={(3.0e-010)*(5)/20}       Igs3=4.9 	   Igs4=6.83e-01
+      Igs5=-7.85e-011    Igs6=-3.30     	       Igs7=6.0
+      Igd1=5.49e-012  	  Igd2={2.6e-11*(0.2)/3}  	 Igd3=-3.09	   Igd4=12
+      Isd1=1.7e-013 	  Isd2=1e-12  	  	Isd3=0 	 Isd4=2.5
+      Isd5=5e-013 	  Isd6=10 	      	Isd7=4.5 	 of1=100 	of2=35
+	 ff1=0.345		  ff2=1.2 		  	ff3=4.5 	 ff4=0.5 	ff5=8    ff6=0.14
*
*
Rth T0 T1 {(0.35*3.6)*(15/75*80*(1+0.005*(Temp-25)))/802}
Cth 0 T1 {(1/3.6)*(2.4e-5*75/80)*802}
Rth_pkg_brd T0 0 {(0.53+Rth_CasetoAmbient)}
Cth_pkg T0 0 {5e-3}
*
bdtemp 0 T1 I = (if(v(drain,source)>0,  
+     (cur*(1-ITc*(V(T1)-0+Temp-25))*log(1.0+exp(21*(v(gate,source)-7.9+6.1-0.000*(Temp-25))/slp))* 
+	v(drain,source)/(1 + max(x0_0+x0_1*(v(gate,source)+9.1),0.2)*v(drain,source)))*
+	v(drainin,sourcein), 
+	(cur*(1-ITc*(v(T1)-0+Temp-25))*log(1.0+exp(21*(v(gate,drain)-7.9+6.1-0.000*(Temp-25))/slp))* 
+	v(source,drain)/(1 + max(x0_0+x0_1*(v(gate,drain)+9.1),0.2)*v(source,drain)))*
+	v(sourcein,drainin)))
*
rd drain drain3 {(3.6/4)*(0.95*rpara)*3.7/802} tc=0.013
ld drainin drain3 {2.0e-10} Rser=0
rs source source3 {(1*3.6)*(0.238*rpara)/802} tc=0.013
Ls sourcein source3 {2.0e-10} Rser=0
LSS source_S source_S1 {1e-9} Rser=0
RSS source_S1 source3 0.0001
rg gate gate1 1.5
Lg gate1 gatein {1.0e-9} Rser=0
*
Rcsdconv drain source {1000Meg/aDi}
Rcgsconv gate source {1000Meg/aDi}
Rcgdconv gate drain {1000Meg/aDi}
*
bswitch drain2 source2 I = if( v(drain2,source2)>0,
+	(cur*(1-ITc*(v(T1)-0+Temp-25))*log(1.0+exp(21*(v(gate,source2)-7.9+6.1-0.000*(Temp-25))/slp))* 
+	v(drain2,source2)/(1 + max(x0_0+x0_1*(v(gate,source2)+9.1),0.2)*v(drain2,source2))),
+	(-cur*(1-ITc*(v(T1)-0+Temp-25))*log(1.0+exp(21*(v(gate,drain2)-7.9+6.1-0.000*(Temp-25))/slp))* 
+	v(source2,drain2)/(1 + max(x0_0+x0_1*(v(gate,drain2)+9.1),0.2)*v(source2,drain2))) )
*
R_drain_ats drain2 drain 7e-4 
R_source_ats source2 source 7e-4
*
**
*
bgsdiode1 gate source1 I = (if( v(gate,source)>100,
+	((1*conv_aide*4.5*aDi/1077*(di_gs1*(exp(16*(100.0)/di_gs3)-1)+di_gs2*(exp(16*
+	(100.0)/di_gs4)-1)))*(1+0.005*(Temp-27))*(1/3.6*802)),
+	((1*conv_aide*4.5*aDi/1077*(di_gs1*(exp(16*(v(gate,source1))/di_gs3)-1)+di_gs2*
+	(exp(16*(v(gate,source1))/di_gs4)-1)))*(1+0.005*(Temp-27)))*(1/3.6*802)))
R_source1 source1 source {(14.47/380)}
*
bgddiode1 gate drain1 I = (if( v(gate,drain)>25,
+	(conv_aide*1*(0.5*aDi/1077*(di_gs1*(exp(0.3*(25.0)/di_gs3)-1)+di_gs2*(exp(0.3*
+	(25.0)/di_gs4)-1)))*(1+0.005*(Temp-27))*(0.2/3.6*802)),
+	(conv_aide*1*(0.5*aDi/1077*((di_gs1*1)*(exp(0.3*(v(gate,drain1))/(di_gs3*1))-1)
+	+(di_gs2*(1))*(exp(0.3*(v(gate,drain1))/(di_gs4*1))-1)))*(1+0.005*(Temp-27))*(0.2/3.6*802))))
R_drain1 drain1 drain {14.47/380}
*
bdsdiode1 drain1 source1 I = (if( v(drain1,source1)>250,
+	(0.4e-9*conv_aide*200*(0.5*aDi/1077*(di_gs1*(exp(5*(250.0-100+((Temp-25)/1.75))/di_gs3)-1)+1*di_gs2*(exp(5*
+	(250.0-100+((Temp-25)/1.75))/di_gs4)-1)))*(1+0.1*(Temp-27))*(0.2/3.6*802)),
+	(0.4e-9*conv_aide*200*(0.5*aDi/1077*((di_gs1*1)*(exp(5*(v(drain1,source1)-100+((Temp-25)/1.75))/(di_gs3*1))-1)
+	+1*(di_gs2*(1))*(exp(5*(v(drain1,source1)-100+((Temp-25)/1.75))/(di_gs4*1))-1)))*(1+0.1*(Temp-27))*(0.2/3.6*802))))
*
bdsdiode2 drain1 source1 I = (if( v(drain,source)>250,
+	(2500.5e-3*conv_aide*200*(0.5*aDi/1077*(di_gs1*(exp(2*(250.0-670)/di_gs3))))
+	*(1+500.09*exp(0.05*(Temp-27)))*(0.2/3.6*802)),
+	(2500.5e-3*conv_aide*200*(0.5*aDi/1077*((di_gs1)*(exp(2*(v(drain,source)-670)/(di_gs3)))))
+	*(1+500.09*exp(0.05*(Temp-27)))*(0.2/3.6*802))))
*
bgddiode2 gate drain1 I = (if( v(gate,drain1)>30,
+	(conv_aide*1e-12*((0.1*di_gs1*(exp(3*(30-4)/1))+di_gs2*
+	(exp(3*(30-4)/1))))*(1+0.005*(Temp-25)))*(1/3.6*802),
+	(conv_aide*1e-12*((0.1*di_gs1*(exp(3*(v(gate,drain1)-4)/1))+di_gs2*
+	(exp(3*(v(gate,drain1)-4)/1))))*(1+0.005*(Temp-25)))*(1/3.6*802)))
****
****
*
C_GS	 gate source  	{(0.0035*Igs1)*802}
C_GS1 gate source Q = ((4/120/2.18)*802*0.5*((0.5*Igs2*Igs4*log(1+exp(ff5*(v(gate,source)-Igs3+
+					4.0)/0.9933))-Igs5*Igs7*log(1+exp(ff6*(v(source,drain)-Igs6)/Igs7)))))
*
C_GD   gate drain  	{(0.01*Igd1/30/2.18)*802}  
C_GD1 gate drain  Q = ((0.4/25/2.18)*802*((0.5*Igs2*Igs4*log(1+exp(2*ff1*(v(gate,drain)-Igs3+of1-95)/
+					(Igs4*ff3)))+2*Igd2*Igd4*log(1+exp(ff2*(v(gate,drain)-Igd3+of2-35)/(Igd4
+					*ff4))))))
*
C_SD	 source drain  	{(2.2*Isd1/2.18)*802}  
C_SD1 source drain  Q = (1.5/2.18*802*(Isd2*Isd4*log(1+exp(0.1*(v(source,drain)-Isd3)/Isd4))+
+                              Isd5*Isd7*log(1+exp(0.1*(v(source,drain)-Isd6)/Isd7)) 
+                             +5*0.5*(0.5*2.5e-12*0.643*log(1+exp(0.55*v(source,drain)-4.68+15))/(0.643
+					*3.5))))
.ends

*$
