* Z:\home\wbraun\projects\ionophoney\simulation\ltspice\class_DE_bridge_L_test.asc
XU1 N027 N011 0 0 NC_01 GS61008P
XU2 N004 N001 N011 N010 NC_02 GS61008P
V1 N018 0 PULSE(0 {Vg} 0 {Tr} {Tf} {Ton} {Period})
V2 N022 0 PULSE(0 {Vg} {Delay} {Tr} {Tf} {Ton} {Period})
V3 N001 0 48 Rser=1m
C1 N001 0 1µ
L1 N011 N015 800n
C2 N011 N015 655p
R1 N012 N011 6
C4 N001 N011 {Cshunt}
C5 N011 0 {Cshunt}
D1 0 N011 my_SS8PH9
D2 N011 N001 my_SS8PH9
XU5 N003 N009 N016 N018 N010 N022 N019 N023 N007 0 LM5113_TRANS thplh=28n tlphl=26.5n thphl=26.5n tlplh=28n
V6 N007 0 5 Rser=0.01
R2 N003 N004 {Rh}
R6 N004 N009 {Rl}
C8 N010 N016 0.1µ
R3 N027 N019 {Rh}
R7 N027 N023 {Rl}
XU3 N028 N012 0 0 NC_03 GS61008P
XU4 N005 N002 N012 N013 NC_04 GS61008P
V4 N026 0 PULSE(0 {Vg} 0 {Tr} {Tf} {Ton} {Period})
V5 N021 0 PULSE(0 {Vg} {Delay} {Tr} {Tf} {Ton} {Period})
V7 N002 0 48 Rser=1m
C3 N002 0 1µ
C7 N002 N012 {Cshunt}
C9 N012 0 {Cshunt}
D3 0 N012 my_SS8PH9
D4 N012 N002 my_SS8PH9
XU6 N006 N014 N017 N021 N013 N026 N020 N025 N008 0 LM5113_TRANS thplh=28n tlphl=26.5n thphl=26.5n tlplh=28n
V8 N008 0 5 Rser=0.01
R5 N006 N005 {Rh}
R8 N005 N014 {Rl}
C10 N013 N017 0.1µ
R9 N028 N020 {Rh}
R10 N028 N025 {Rl}
L2 N024 N012 220n
C6 N024 N011 0.1µ
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.param Tf = 5n
.param Tr = 5n
.param Freq = 6.78Meg
.param Period = {1/Freq}
.param Ton = {(Period/2-Tr)*Conduction_Cycle}
.param Toff = {Period/2 }
.param Delay = {Period/2}
.tran 0 3u 2u
.param Conduction_Cycle = 0.75
.param Vg = 5
.param Cshunt = 50p
.param Rh = 0.5
.param Rl = 0.5
.lib GaN_LTspice_GS61008P_Release1p27.lib
.lib Z:\home\wbraun\projects\ionophoney\simulation\ltspice\LM5113.lib
.backanno
.end
