* Z:\home\wbraun\projects\ionophoney\simulation\ltspice\class_phi2_modified.asc
V1 N007 0 PULSE(0 {Vg} 0 {Tr} {Tf} {Ton} {Period})
XU2 N008 N002 0 NC_01 GS66508T
L1 N001 N002 150n
R1 N008 N007 0.5
C1 N002 0 400p
C2 N003 N002 1µ
L2 N003 N004 620n
V2 N001 0 48
L3 N004 N005 2.47E-6
C3 N006 N005 223p
R2 0 N006 10
L4 N002 N009 500n
C4 N009 0 270p
.param Tf = 5n
.param Tr = 5n
.param Freq = 6.78Meg
.param Period = {1/Freq}
.param Ton = {(Period/2-Tr)*Conduction_Cycle}
.param Toff = {Period/2 }
.tran 0 10u 9u
.param Conduction_Cycle = 1
.param Vg = 6
* .step param RLOAD list 6 8 10 16 22 36 45 58 80
.param RLOAD 16
.param phaseShift = 0.5*{Period} + 0.5*0.001*{Period}
* Resonator Parameters from Testing (assuming Q of 5): 223p, 2.79u, 16
.lib GaN_LTspice_GS66508T_Release1p27.lib
.backanno
.end
